US07902252B2
4.23. Synthesis of methyl 6-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (447 mg, 2.5 mmol) was reacted with 3-methoxybenzylmagnesium bromide (0.25 M in hexanes, 25 mL, 6.3 mmol) according to General Procedure 3 to give the exo olefin-containing compound (E)-methyl 6-(3-methoxybenzylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate, followed by hydrogenation (with 5% Pd/C) according to General Procedure 6, and was purified by chromatography, eluting with heptane-EtOAc, gradient 0 to 40% EtOAc. The material was carried to the next step without further characterization.

reactant | methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 2.5 mmol, 447 mg | O=C1CCC2=C1NC(=C2)C(=O)OC | C9H9NO3
reactant | 3-methoxybenzylmagnesium bromide | 6.3 mmol, 0.25 M, 25 mL | COC=1C=C(C[Mg]Br)C=CC1
product | methyl 6-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | COC=1C=C(CC2CCC3=C2NC(=C3)C(=O)OC)C=CC1 | C17H19NO3
